* NGSPICE file created from PFD_lib.ext - technology: gf180mcuD

.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_8 VDD VSS VNW VPW
X0 VDD a_572_375# a_484_472# VNW pfet_05v0 ad=0.5368p pd=3.32u as=0.5368p ps=3.32u w=1.22u l=1u
X1 a_572_375# a_484_472# VSS VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.3608p ps=2.52u w=0.82u l=1u
X2 a_124_375# a_36_472# VSS VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.3608p ps=2.52u w=0.82u l=1u
X3 VDD a_124_375# a_36_472# VNW pfet_05v0 ad=0.5368p pd=3.32u as=0.5368p ps=3.32u w=1.22u l=1u
.ends

.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_32 VDD VSS VNW VPW
X0 VDD a_572_375# a_484_472# VNW pfet_05v0 ad=0.5368p pd=3.32u as=0.5368p ps=3.32u w=1.22u l=1u
X1 VDD a_2364_375# a_2276_472# VNW pfet_05v0 ad=0.5368p pd=3.32u as=0.5368p ps=3.32u w=1.22u l=1u
X2 a_572_375# a_484_472# VSS VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.3608p ps=2.52u w=0.82u l=1u
X3 VDD a_1916_375# a_1828_472# VNW pfet_05v0 ad=0.5368p pd=3.32u as=0.5368p ps=3.32u w=1.22u l=1u
X4 a_124_375# a_36_472# VSS VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.3608p ps=2.52u w=0.82u l=1u
X5 a_1916_375# a_1828_472# VSS VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.3608p ps=2.52u w=0.82u l=1u
X6 a_1468_375# a_1380_472# VSS VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.3608p ps=2.52u w=0.82u l=1u
X7 a_2812_375# a_2724_472# VSS VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.3608p ps=2.52u w=0.82u l=1u
X8 VDD a_3260_375# a_3172_472# VNW pfet_05v0 ad=0.5368p pd=3.32u as=0.5368p ps=3.32u w=1.22u l=1u
X9 a_2364_375# a_2276_472# VSS VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.3608p ps=2.52u w=0.82u l=1u
X10 VDD a_2812_375# a_2724_472# VNW pfet_05v0 ad=0.5368p pd=3.32u as=0.5368p ps=3.32u w=1.22u l=1u
X11 a_3260_375# a_3172_472# VSS VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.3608p ps=2.52u w=0.82u l=1u
X12 VDD a_1020_375# a_932_472# VNW pfet_05v0 ad=0.5368p pd=3.32u as=0.5368p ps=3.32u w=1.22u l=1u
X13 VDD a_1468_375# a_1380_472# VNW pfet_05v0 ad=0.5368p pd=3.32u as=0.5368p ps=3.32u w=1.22u l=1u
X14 VDD a_124_375# a_36_472# VNW pfet_05v0 ad=0.5368p pd=3.32u as=0.5368p ps=3.32u w=1.22u l=1u
X15 a_1020_375# a_932_472# VSS VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.3608p ps=2.52u w=0.82u l=1u
.ends

.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_16 VDD VSS VNW VPW
X0 VDD a_572_375# a_484_472# VNW pfet_05v0 ad=0.5368p pd=3.32u as=0.5368p ps=3.32u w=1.22u l=1u
X1 a_572_375# a_484_472# VSS VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.3608p ps=2.52u w=0.82u l=1u
X2 a_124_375# a_36_472# VSS VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.3608p ps=2.52u w=0.82u l=1u
X3 a_1468_375# a_1380_472# VSS VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.3608p ps=2.52u w=0.82u l=1u
X4 VDD a_1020_375# a_932_472# VNW pfet_05v0 ad=0.5368p pd=3.32u as=0.5368p ps=3.32u w=1.22u l=1u
X5 VDD a_1468_375# a_1380_472# VNW pfet_05v0 ad=0.5368p pd=3.32u as=0.5368p ps=3.32u w=1.22u l=1u
X6 VDD a_124_375# a_36_472# VNW pfet_05v0 ad=0.5368p pd=3.32u as=0.5368p ps=3.32u w=1.22u l=1u
X7 a_1020_375# a_932_472# VSS VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.3608p ps=2.52u w=0.82u l=1u
.ends

.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_4 VDD VSS VNW VPW
X0 a_124_375# a_36_472# VSS VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.3608p ps=2.52u w=0.82u l=1u
X1 VDD a_124_375# a_36_472# VNW pfet_05v0 ad=0.5368p pd=3.32u as=0.5368p ps=3.32u w=1.22u l=1u
.ends

.subckt gf180mcu_fd_sc_mcu7t5v0__tieh Z VDD VSS VNW VPW
X0 Z a_125_24# VDD VNW pfet_05v0 ad=0.5368p pd=3.32u as=0.5368p ps=3.32u w=1.22u l=0.5u
X1 a_125_24# a_125_24# VSS VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.3608p ps=2.52u w=0.82u l=0.6u
.ends

.subckt gf180mcu_fd_sc_mcu7t5v0__inv_1 VSS ZN I VDD VNW VPW
X0 ZN I VSS VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.3608p ps=2.52u w=0.82u l=0.6u
X1 ZN I VDD VNW pfet_05v0 ad=0.5368p pd=3.32u as=0.5368p ps=3.32u w=1.22u l=0.5u
.ends

.subckt gf180mcu_fd_sc_mcu7t5v0__nand2_1 VDD VSS ZN A1 A2 VNW VPW
X0 ZN A2 VDD VNW pfet_05v0 ad=0.2938p pd=1.65u as=0.4972p ps=3.14u w=1.13u l=0.5u
X1 ZN A1 a_245_68# VPW nfet_05v0 ad=0.3608p pd=2.52u as=0.1312p ps=1.14u w=0.82u l=0.6u
X2 VDD A1 ZN VNW pfet_05v0 ad=0.4972p pd=3.14u as=0.2938p ps=1.65u w=1.13u l=0.5u
X3 a_245_68# A2 VSS VPW nfet_05v0 ad=0.1312p pd=1.14u as=0.3608p ps=2.52u w=0.82u l=0.6u
.ends

.subckt gf180mcu_fd_sc_mcu7t5v0__dffrnq_1 D Q RN VSS CLK VDD VNW VPW
X0 VSS CLK a_36_151# VPW nfet_05v0 ad=0.1053p pd=0.925u as=0.1782p ps=1.69u w=0.405u l=0.6u
X1 VSS RN a_1456_156# VPW nfet_05v0 ad=0.2016p pd=1.48u as=43.2f ps=0.6u w=0.36u l=0.6u
X2 Q a_2665_112# VDD VNW pfet_05v0 ad=0.5346p pd=3.31u as=0.5346p ps=3.31u w=1.215u l=0.5u
X3 a_796_472# D VSS VPW nfet_05v0 ad=93.59999f pd=0.88u as=0.1584p ps=1.6u w=0.36u l=0.6u
X4 VSS a_2665_112# a_2560_156# VPW nfet_05v0 ad=0.1224p pd=1.04u as=94.5f ps=0.885u w=0.36u l=0.6u
X5 a_2665_112# a_2248_156# a_3041_156# VPW nfet_05v0 ad=0.176p pd=1.68u as=0.134p ps=1.1u w=0.4u l=0.6u
X6 a_1000_472# a_448_472# a_796_472# VNW pfet_05v0 ad=0.2028p pd=1.3u as=0.2028p ps=1.3u w=0.78u l=0.5u
X7 a_2248_156# a_36_151# a_1308_423# VNW pfet_05v0 ad=0.25375p pd=1.51u as=0.2424p ps=1.465u w=0.505u l=0.5u
X8 a_2248_156# a_448_472# a_1308_423# VPW nfet_05v0 ad=0.2007p pd=1.475u as=0.2007p ps=1.475u w=0.36u l=0.6u
X9 VDD CLK a_36_151# VNW pfet_05v0 ad=0.2249p pd=1.385u as=0.3806p ps=2.61u w=0.865u l=0.5u
X10 a_1456_156# a_1308_423# a_1288_156# VPW nfet_05v0 ad=43.2f pd=0.6u as=43.2f ps=0.6u w=0.36u l=0.6u
X11 a_1308_423# a_1000_472# VSS VPW nfet_05v0 ad=0.2007p pd=1.475u as=0.2016p ps=1.48u w=0.36u l=0.6u
X12 Q a_2665_112# VSS VPW nfet_05v0 ad=0.3586p pd=2.51u as=0.3586p ps=2.51u w=0.815u l=0.6u
X13 a_448_472# a_36_151# VDD VNW pfet_05v0 ad=0.3806p pd=2.61u as=0.2249p ps=1.385u w=0.865u l=0.5u
X14 a_1204_472# a_36_151# a_1000_472# VNW pfet_05v0 ad=0.2028p pd=1.3u as=0.2028p ps=1.3u w=0.78u l=0.5u
X15 a_1204_472# RN VDD VNW pfet_05v0 ad=0.3432p pd=2.44u as=0.45p ps=2.02u w=0.78u l=0.5u
X16 a_2665_112# RN VDD VNW pfet_05v0 ad=0.26p pd=1.52u as=0.29465p ps=1.74u w=1u l=0.5u
X17 a_2560_156# a_36_151# a_2248_156# VPW nfet_05v0 ad=94.5f pd=0.885u as=0.2007p ps=1.475u w=0.36u l=0.6u
X18 VDD a_2248_156# a_2665_112# VNW pfet_05v0 ad=0.44p pd=2.88u as=0.26p ps=1.52u w=1u l=0.5u
X19 a_1288_156# a_448_472# a_1000_472# VPW nfet_05v0 ad=43.2f pd=0.6u as=93.59999f ps=0.88u w=0.36u l=0.6u
X20 VDD a_1308_423# a_1204_472# VNW pfet_05v0 ad=0.45p pd=2.02u as=0.2028p ps=1.3u w=0.78u l=0.5u
X21 a_2560_156# a_448_472# a_2248_156# VNW pfet_05v0 ad=0.1313p pd=1.025u as=0.25375p ps=1.51u w=0.505u l=0.5u
X22 a_448_472# a_36_151# VSS VPW nfet_05v0 ad=0.1782p pd=1.69u as=0.1053p ps=0.925u w=0.405u l=0.6u
X23 a_3041_156# RN VSS VPW nfet_05v0 ad=0.134p pd=1.1u as=0.1224p ps=1.04u w=0.36u l=0.6u
X24 VDD a_2665_112# a_2560_156# VNW pfet_05v0 ad=0.29465p pd=1.74u as=0.1313p ps=1.025u w=0.505u l=0.5u
X25 a_1308_423# a_1000_472# VDD VNW pfet_05v0 ad=0.2424p pd=1.465u as=0.2222p ps=1.89u w=0.505u l=0.5u
X26 a_1000_472# a_36_151# a_796_472# VPW nfet_05v0 ad=93.59999f pd=0.88u as=93.59999f ps=0.88u w=0.36u l=0.6u
X27 a_796_472# D VDD VNW pfet_05v0 ad=0.2028p pd=1.3u as=0.3432p ps=2.44u w=0.78u l=0.5u
.ends

.subckt PFD_lib DOWN FB REF UP VDD VSS
XFILLER_3_36 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_3_2 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_0_36 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_3_59 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_1_2 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_1_72 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_1_61 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_1_88 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XX2_2 X2/D VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__tieh
XXI1 VSS XI2/I XN/ZN VDD VDD VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
XXI2 VSS X2/RN XI2/I VDD VDD VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
XFILLER_2_71 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_1_18 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_2_2 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_2_87 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_0_2 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_2_24 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XXN VDD VSS XN/ZN UP DOWN VDD VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
XFILLER_0_70 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_3_70 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_0_86 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_3_86 VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XX1 X1/D UP X2/RN VSS REF VDD VDD VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XX1_1 X1/D VDD VSS VDD VSS gf180mcu_fd_sc_mcu7t5v0__tieh
XX2 X2/D DOWN X2/RN VSS FB VDD VDD VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
.ends

